US04333950
In a manner similar to Example 12A, the reaction of 1.54 g (0.007 mole) of (±)-cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride and 1.5 g (0.007 mole) of (+)-4-phenyl-2-indanol (EE≥95%) in the presence of 0.7 g (0.009 mole) of pyridine and 20 ml of toluene gave 1.84 g of (+)-4-phenyl-2-indanyl (±)-cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate as an oil, EE≥95% (alcohol moiety). The nmr spectrum was consistent with the proposed structure.

reactant | (±)-cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.007 mole, 1.54 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)Cl | C8H9Cl3O
reactant | (+)-4-phenyl-2-indanol | 0.007 mole, 1.5 g | C1(=CC=CC=C1)C1=C2CC(CC2=CC=C1)O | C15H14O
reactant | pyridine | 0.009 mole, 0.7 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-4-phenyl-2-indanyl (±)-cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | 1.84 g | ClC(=C[C@H]1C([C@H]1C(=O)OC1CC2=CC=CC(=C2C1)C1=CC=CC=C1)(C)C)Cl | C23H22Cl2O2
